US06410550B1
A) 6-Fluoro-1,4-dihydro-1,4-methano-naphthalene
Magnesium turnings (0.66 g, 27.2 mmol) were stirred in anhydrous THF (10 mL) in a flame dried 75 mL 3 neck round bottom flask equipped with a non-equalizing addition funnel with a N2 flow adapter, magnetic stirrer and efficient condenser equipped with a N2 flow adapter. The flask was stirred and warmed to reflux by a removable heating mantle. 2,5-Difluorobromobenzene (0.1 g) was added followed by of 3N EtMgBr in THF (0.1 mL). The addition funnel was charged with an intimate mixture of cyclopentadiene (1.71 g, 25.9 mmol) and 2,5-difluorobromobenzene (5.0 g, 25.9 mmol). Small portions (˜0.2 mL) of the intimate mixture were introduced to assist initiation (˜4×). After ˜15 minutes, the reaction initiated (exotherm, and vapor condensation) and heating was maintained as necessary during the addition of the contents of the addition funnel. The reaction was then maintained at reflux for 1 hour.

reactant | Magnesium | 27.2 mmol, 0.66 g | [Mg] | Mg
reactant | cyclopentadiene | 25.9 mmol, 1.71 g | C1=CC=CC1 | C5H6
reactant | 2,5-difluorobromobenzene | 25.9 mmol, 5.0 g | FC1=C(C=C(C=C1)F)Br | C6H3BrF2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-1,4-dihydro-1,4-methano-naphthalene | FC=1C=C2C3C=CC(C2=CC1)C3 | C11H9F
